US07662809B2
Step 1: 3-[2-bromo-3-cyclohexyl-6-(methoxycarbonyl)-1H-indol-1-yl]propanoic Acid
3.5 eq of NaH (60% dispersion in mineral oil) was added to a solution of methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate (prepared as described in published International patent application WO 2004/087714, from commercially available methyl indole-6-carboxylate) in DMF (0.2 M) and the solution allowed to stir at RT for 1 h. Then 1.1 eq of 3-bromopropanoic acid were added and the mixture stirred at RT for 2 h. DMF was concentrated in vacuo and the residue taken up in EtOAc. The organic phase was washed with 1 N HCl and then brine before being dried over Na2SO4, filtered and the solvent evaporated in vacuo. The title compound was used crude in the next step; MS (ES+) m/z 408 (M+H)+, m/z 410 (M+H)+

reactant | NaH | 3.5 eq | [H-].[Na+]
reactant | methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate | BrC=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C16H18BrNO2
reactant | methyl indole-6-carboxylate | N1C=CC2=CC=C(C=C12)C(=O)OC | C10H9NO2
reactant | 3-bromopropanoic acid | 1.1 eq | BrCCC(=O)O | C3H5BrO2
solvent | DMF | 0.2 M | CN(C)C=O | C3H7NO
product | 3-[2-bromo-3-cyclohexyl-6-(methoxycarbonyl)-1H-indol-1-yl]propanoic Acid | BrC=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CCC(=O)O | C19H22BrNO4
